2132-11-13 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2132-11-12**] 11:30 AM: Showed erosions in fundus and
   some gastritis, better from prior, antrum is healing.  GI felt that it
   was possible that she might have lesions further down in the GIT
   especially in the SB to account for the melena.  pt. should have close
   f/u post discharge with her PCP for blood draws to make sure she does
   not go undetected in case she were to drop crit again. Her lesions are
   expected to take up to a month or more to heal.
   -updated [**Last Name (un) **] health service [**Telephone/Fax (1) 10557**]
   -gave pm seroquel dose.
   -nausea in pm not resolved with zofran, gave reglan and tylenol for
   [**1-8**] HA.
   -Hct 29.7 -> 29.5 -> 26.4 this AM, received another unit of blood ->
   33.8
   This morning, pt reports: Feeling fine.  Nausea from overnight has
   resolved.  No dizziness, lightheadedness, abdominal pain.  Had one
   black stool this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-11-12**] 08:00 AM
   Fentanyl - [**2132-11-12**] 11:55 AM
   Midazolam (Versed) - [**2132-11-12**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-13**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 108 (88 - 111) bpm
   BP: 111/63(74) {92/40(53) - 129/92(100)} mmHg
   RR: 20 (18 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 25 Inch
                  Total In:
                                                                  3,640 mL
                  PO:
                                                                     60 mL
                  TF:
   IVF:
                                                                    661 mL
   Blood products:
                                                                    919 mL
   Total out:
                                                                  3,470 mL
                                                                    150 mL
   Urine:
                                                                  2,520 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Gen: awake and alert, lying comfortably in bed, pale appearing
   HEENT: NCAT, PERRL, OP clear, MMM, neck supple
   CV: RRR, nl S1, S2, no m/r/g
   Pulm: CTAB
   Abd: +BS, soft, NT, ND
   Extrem: no c/c/e, 2+ DP pulses, wwp
   Labs / Radiology
   212 K/uL
   9.3 g/dL
   89 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   26.4 %
   8.1 K/uL
        [image002.jpg]
                            [**2132-11-12**]  06:01 AM
                            [**2132-11-12**]  10:34 AM
                            [**2132-11-12**]  04:14 PM
                            [**2132-11-13**]  02:34 AM
   WBC
   8.1
   8.1
   Hct
   24.0
   29.7
   29.5
   26.4
   Plt
   211
   212
   Cr
   0.5
   0.6
   Glucose
   89
   89
   Other labs: PT / PTT / INR:12.4/22.6/1.0, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Imaging:
    EGD: Focal area of erythema and granular mucosa of about 4 cm was
   noted in the fundus of the stomach consistent with gastritis. But no
   active bleeding or signs of recent bleed was noted.
   Duodenum: Normal duodenum.
   Impression: Abnormal mucosa in the stomach
   Otherwise normal EGD to second part of the duodenum
   No new imaging.
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   20 yo female with recent admission for NSAID gastritis admitted for
   repeat upper GI bleed.
   .
   .
   #. Hematemesis: History of NSAID gastritis on recent admission, EGD
   performed this admission showed healing gastric mucosa but no clear
   source of bleeding.  GI thinks that patient may have a small bowel
   source of bleeding, although crohns is low likelihood.
   - Will touch base with GI about need for further imaging now that
   post-transfusion hct suggests bleeding has stopped
   - PPI [**Hospital1 **]
   - maintain 2 large bore IVs
   - Q8H Hct ; next hct due 5pm
   - Active type and cross, transfuse for Hct < 30
   - IV fluids PRN
   - Avoid NSAIDS
   - Zofran PRN
   - will advance diet to clears
   .
   #. Tachycardia: Improved at rest, but continues to have tachycardia
   with exertion.  Most likely secondary to volume loss and anemia. Will
   continue volume resuscitation as above. Monitor on telemetry.
   .
   #. Insomnia: Continue home seroquel PRN
   .
   #. History of Narcotic Abuse: At the patient's request will avoid all
   narcotic medications.
   ICU Care
   Nutrition: NPO for now, will advance to clears this AM
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-11-12**] 01:37 AM
   Prophylaxis:
   DVT: pneumatic boots
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments: patient, mother and sister
   [**Name (NI) 156**] status: Full code
   Disposition: Callout to medicine floor

2132-11-13 12:02:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Likely spurious hct of 26 overnight led to 1 UPRBC
   24 Hour Events:
 ENDOSCOPY - At [**2132-11-12**] 11:30 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2132-11-12**] 11:55 AM
   Midazolam (Versed) - [**2132-11-12**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-11-13**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 89 (79 - 113) bpm
   BP: 122/67(79) {92/40(53) - 125/83(92)} mmHg
   RR: 23 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 25 Inch
                  Total In:
                                                                  3,640 mL
                                                                    350 mL
   PO:
                                                                     60 mL
                  TF:
   IVF:
                                                                    661 mL
   Blood products:
                                                                    919 mL
                                                                    350 mL
   Total out:
                                                                  3,470 mL
                                                                    350 mL
   Urine:
                                                                  2,520 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   212 K/uL
   89 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   33.8 %
   8.1 K/uL
        [image002.jpg]
                            [**2132-11-12**]  06:01 AM
                            [**2132-11-12**]  10:34 AM
                            [**2132-11-12**]  04:14 PM
                            [**2132-11-13**]  02:34 AM
                            [**2132-11-13**]  09:11 AM
   WBC
   8.1
   8.1
   Hct
   24.0
   29.7
   29.5
   26.4
   33.8
   Plt
   211
   212
   Cr
   0.5
   0.6
   Glucose
   89
   89
   Other labs: PT / PTT / INR:12.4/22.6/1.0, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Hct now stable w/o evidence of further bleeding.  Remains very
   puzzling. Hard to believe she has two different lesions that de [**Last Name (un) **]
   have caused bleeding and her EGD shows healing but NG lavage in ED was
   pos. Would be inclined to wait for awhile, monitor hct regularly, and
   then decide if there is any reason to investigate further.
   ICU Care
   Nutrition:
   Comments: clear advancing to full
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-11-12**] 01:37 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes